US09233098B2
1. Preparation of ethyl 2-[1-[4-(6-methylnicotinamido)benzyl]-1H-indazol-3-yl]acetate
Ethyl 2-[1-(4-aminobenzyl)-1H-indazol-3-yl]acetate (258 mg, 0.83 mmol) and triethylamine (0.4 mL, 2.87 mmol) were dissolved in dichloromethane (15 mL), and in an ice bath, dichloromethane solution (10 mL) of the prepared 6-methylnicotinoyl chloride (about 1.00 mmol) was added dropwise slowly. Upon completion of the dropwise addition, it was reacted at room temperature for 16 hours. An aqueous solution of sodium bicarbonate was added to quench, and extracted with ethyl acetate. The organic phase was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduce pressure, and chromatographed on a silica gel column (petroleum ether:ethyl acetate=2:1) to obtain a white solid 258 mg, at a yield of 72.3%.

reactant | Ethyl 2-[1-(4-aminobenzyl)-1H-indazol-3-yl]acetate | 0.83 mmol, 258 mg | NC1=CC=C(CN2N=C(C3=CC=CC=C23)CC(=O)OCC)C=C1 | C18H19N3O2
reactant | triethylamine | 2.87 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | 6-methylnicotinoyl chloride | about 1.00 mmol | CC1=NC=C(C(=O)Cl)C=C1 | C7H6ClNO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | ethyl 2-[1-[4-(6-methylnicotinamido)benzyl]-1H-indazol-3-yl]acetate | 258 mg, yield of 72.3% | CC1=NC=C(C(=O)NC2=CC=C(CN3N=C(C4=CC=CC=C34)CC(=O)OCC)C=C2)C=C1 | C25H24N4O3
